*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXF500ARA121MJA0G
*//   Date        : 2022/09/28
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXF500ARA121MJA0G_20deg-C 1 2

C1 4 2 1.01e-04
C2 5 2 6.77e-06
C3 6 2 3.63e-06
R1 3 4 1.17e-02
R2 4 5 9.68e-01
R3 5 6 1.44e+01
L1 1 3 4.50e-09

.ENDS
*$
